US08859555B2
To a solution of (trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine (3.6 g, 38.26 mmol) in DCM (36 mL), 4° A molecular sieves was added followed by chloroacetaldehyde (5.8 mL, 38.26 mmol) and then stirred at RT for 1 h. After completion, monitored by TLC, cooled the reaction mixture at −10° C. and Na(CN)BH3 (2.88 g, 45.92 mmol) was added and stirred at RT for 2 h. After completion, the reaction mixture was quenched with NH4Cl (5%) and filtered through a pad of celite. The filtrate was extracted with DCM (2×50 mL), combined extracts were washed with water (40 mL), dried over anhydrous Na2SO4, filtered and evaporated. The residue was purified by flash column chromatography by using EtOAc: Pet ether to get (trans)-N-(2-chloroethyl)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine (3.2 g, 72.72%) as a liquid.

reactant | (trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine | 38.26 mmol, 3.6 g | FC(C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1[C@@H](C1)N)(F)F | C16H14F3N
reactant | chloroacetaldehyde | 38.26 mmol, 5.8 mL | ClCC=O | C2H3ClO
solvent | DCM | 36 mL | C(Cl)Cl | CH2Cl2
product | (trans)-N-(2-chloroethyl)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine | 3.2 g, 72.72% | ClCCN[C@H]1[C@@H](C1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F | C18H17ClF3N
